US07229999B2
In analogy to example 1f, 6-benzyloxy-5-bromo-nicotinic acid was coupled with (1R,2R)-2-amino-cyclohexanol hydrochloride (CAS [5456-63-3]) using TBTU and N,N-diisopropyl ethyl amine in N,N-dimethylacetamide to give 6-benzyloxy-5-bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide as an orange solid.

reactant | 6-benzyloxy-5-bromo-nicotinic acid | C(C1=CC=CC=C1)OC1=NC=C(C(=O)O)C=C1Br | C13H10BrNO3
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropyl ethyl amine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-benzyloxy-5-bromo-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | C(C1=CC=CC=C1)OC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1Br | C19H21BrN2O3
